US06642264B1
Acetone (1.5 L) solution of 2-mercaptobenzoimidazole (150 g) and ethyl 2-chloroacetoacetate (247 g) was heated under reflux for 5 hours. The reaction solution was cooled to room temperature, and then the resulting precipitate was collected by filtration to obtain ethyl 2-[(benzoimidazol-2-yl)thio]acetoacetate hydrochloride (303 g) as colorless crystals. The thus obtained crystals (45 g) were dissolved in DMF (200 ml), and the solution was mixed with Py (32 ml) and acetic acid formic acid anhydride (35 g) and stirred for 3 hours while heating at 100° C. After cooling, the reaction solution was poured into water, and the resulting precipitate was collected by filtration and washed with water. The thus obtained solid was dried under a reduced pressure, purified by a column chromatography (eluent; CHCl3) and then recrystallized from EtOAc/Hex to obtain the title compound (22 g).

reactant | 2-mercaptobenzoimidazole | 150 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | ethyl 2-chloroacetoacetate | 247 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | Acetone | 1.5 L | CC(=O)C | C3H6O
product | ethyl 2-[(benzoimidazol-2-yl)thio]acetoacetate hydrochloride | 303 g | Cl.N1=C(NC2=C1C=CC=C2)SC(C(=O)OCC)C(=O)C | InChI=1S/C13H14N2O3S.ClH/c1-3-18-12(17)11(8(2)16)19-13-14-9-6-4-5-7-10(9)15-13;/h4-7,11H,3H2,1-2H3,(H,14,15);1H
